* /home/drako/esim-workspace/halfadder1/halfadder1.cir

.include and_gate.sub
.include xor_gate.sub
* u1  a b sum carry port
x1 a b carry and_gate
x1 a b sum xor_gate

.tran 0.1us 40us 0

v1 a 0 pulse(0 1.8 0 0 0 5us 10us)
v2 b 0 pulse(0 1.8 0 0 0 10us 20us)

* Control Statements 
.control
run
plot sum carry
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
